Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain, shortness of breath
 
Major Surgical or Invasive Procedure:
___: Impella removal
___: 
1. Coronary artery bypass graft x 5. Total arterial 
revascularization.
2. Skeletonized left internal mammary artery sequential grafting 
to diagonal and left anterior descending artery.
3. Skeletonized in situ right internal mammary artery graft to 
obtuse marginal artery.
4. Left radial artery sequential grafting to posterior 
descending artery and posterior left ventricular branch.
5. Endoscopic harvesting of the left radial artery. 
 
History of Present Illness:
Mr. ___ is a is a ___ year old man with past medical history of 
hyperlipidemia and hypertension. He presented to presented to 
his PCP with ___ three day history of shortness of breath and 
palpitations. An ECG was notable for <1mm elevation in V4, V5 
prompting ED evaluation. He reported that his symptoms have been 
coming and going for three days. He states that they came on 
while driving. He denies relieving factors. He reported that 
while exercising yesterday he developed additional fatigue and 
shortness of breath. He was referred to his local ED and was 
found to have an elevated troponin. A cardiac catheterization 
revealed multivessel disease and an occluded LAD. This was 
thought to be the culprit lesion but due its ostial location a 
stent was thought to be dangerous. An Impella was placed and the 
patient developed a groin hematoma that improved with a 
Fem-Stop. He was transferred for cardiology and cardiac surgery 
consult. 
 
Past Medical History:
Anxiety
Coronary Artery Disease
Hyperlipidemia
Hypertension
Kidney Stones

 
Social History:
___
Family History:
No premature history of heart disease
 
Physical Exam:
Admission Physical Exam:
=======================
HR: 87 bpm  BP: 106/78  RR: 19  O2 sat: 96% RA

General:
Skin: Dry [x] intact [x]
HEENT: Icteric sclera, PERRLA [x] EOMI x[]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+[x]
Extremities: Warm [x], well-perfused [x]  Edema []
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: Impella site with hematoma  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit:        Right: none   Left: none
.
Discharge Exam:
98.3
PO 105 / 69 74 20 98 Ra 
.
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [x] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema tr
Left Upper extremity    Warm [x]  Edema tr
Right Lower extremity   Warm [x]  Edema tr
Left Lower extremity    Warm [x]  Edema tr
Pulses:
DP             Right: p      Left:p
___             Right: p      Left:p
Radial         Right: p      Left:p
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena []
Upper extremity: Right [] Left [x]  CDI [x]

 
Pertinent Results:
Lab Results:
==================
Admission labs:
___ 09:50PM BLOOD WBC-8.4 RBC-5.36 Hgb-14.1 Hct-42.2 
MCV-79* MCH-26.3 MCHC-33.4 RDW-13.5 RDWSD-38.5 Plt ___
___ 09:50PM BLOOD ___ PTT-32.4 ___
___ 09:50PM BLOOD ___ 09:50PM BLOOD Glucose-122* UreaN-14 Creat-1.5* Na-139 
K-4.2 Cl-103 HCO3-24 AnGap-12
___ 09:50PM BLOOD ALT-21 AST-63* LD(LDH)-516* CK(CPK)-290 
AlkPhos-82 TotBili-2.0* DirBili-0.2 IndBili-1.8
___ 09:50PM BLOOD CK-MB-24* MB Indx-8.3* cTropnT-0.38*
___ 09:50PM BLOOD Albumin-4.4 Calcium-9.6 Phos-3.6 Mg-1.9 
Cholest-277*
___ 09:50PM BLOOD Hapto-<10*
___ 10:06PM BLOOD %HbA1c-5.6 eAG-114
___ 09:50PM BLOOD Triglyc-146 HDL-55 CHOL/HD-5.0 
LDLcalc-193*

Reports:
==================
Transthoracic Echocardiogram ___
There is suboptimal image quality to assess regional left 
ventricular function. The visually estimated left ventricular 
ejection fraction is 35%. The Impella catheter is correctly 
positioned with respect to the aortic valve. There is no 
pericardial effusion.

IMPRESSION: Limited study. Moderately depressed left ventricular 
systolic function with suggestion of relative hypokinesis of 
anterior, anterolateral, inferolateral segments, and true apex, 
however suboptimal image quality precludes adequate assessment 
of extent of left ventricular systolic dysfunction. Impella 
catheter tip within acceptable distance range, however in some 
views it appears that it may be abutting the papillary muscles.

Carotid Ultrasound ___
Right ICA 0% stenosis with mild intimal thickening. Left ICA 0% 
stenosis.

Transthoracic Echocardiogram ___
The left atrial volume index is mildly increased. There is 
normal left ventricular wall thickness with a normal cavity 
size. There is normal regional left ventricular systolic 
function. Overall left ventricular systolic function is low 
normal. Quantitative biplane left ventricular ejection fraction 
is 51 % (normal 54-73%). Left ventricular cardiac index is low 
normal (2.0-2.5 L/min/m2). Global longitudinal strain is 
depressed (-13 %; normal less than -20%) There is Grade I 
diastolic dysfunction. Mildly dilated right ventricular cavity 
with normal free wall motion. The aortic sinus diameter is 
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter is normal with a mildly dilated 
descending aorta. The aortic valve leaflets
(3) appear structurally normal. There is no aortic valve 
stenosis. There is trace aortic regurgitation. The mitral valve 
leaflets are mildly thickened with no mitral valve prolapse. 
There is mild [1+] mitral regurgitation. The pulmonic valve 
leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is mild to
moderate [___] tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is a trivial 
pericardial effusion.

IMPRESSION: 1) Mild global LV systolic dysfunction with mild 
regional variation in contractilty suggesting either diffuse 
cardiomyopathic process or CAD with ischemic stunning in LCX 
(significant post-systolic contraction suggests viability and 
stunning rather then myocardial
infarction - see bull's eye colored in blue). 2) Mild to 
moderate tricuspid regurgitation in setting of mild RV dilation 
with normal free wall function.
.

___ 05:24AM BLOOD WBC-11.2* RBC-2.83* Hgb-7.3* Hct-23.3* 
MCV-82 MCH-25.8* MCHC-31.3* RDW-13.2 RDWSD-39.8 Plt ___
___ 02:10AM BLOOD WBC-17.6* RBC-3.09* Hgb-8.2* Hct-25.3* 
MCV-82 MCH-26.5 MCHC-32.4 RDW-13.5 RDWSD-39.8 Plt ___
___ 06:30PM BLOOD WBC-21.7* RBC-4.02* Hgb-10.8* Hct-32.3* 
MCV-80* MCH-26.9 MCHC-33.4 RDW-13.2 RDWSD-38.5 Plt ___
___ 06:30PM BLOOD ___ PTT-31.3 ___
___ 05:24AM BLOOD Glucose-100 UreaN-19 Creat-1.4* Na-142 
K-4.1 Cl-100 HCO3-32 AnGap-10
___ 02:45AM BLOOD Glucose-139* UreaN-12 Creat-1.2 Na-140 
K-4.8 Cl-109* HCO3-25 AnGap-6*
___ 05:24AM BLOOD Mg-1.9
 
Brief Hospital Course:
He was admitted to ___ on ___ and was transferred to the 
CCU for further care. He was rapidly weaned from Impella support 
and the device was subsequently removed. Cardiac surgery was 
consulted for revascularization. He underwent routine 
preoperative testing and evaluation. He had an access site bleed 
in the right groin and arrived with a Femstop in place. He 
maintained good distal pulses throughout the stay, and 
definitive hemostasis was achieved at the time of Impella 
removal. He presented with a creatinine of 1.5 from an unknown 
baseline. He remained stable and was taken to the operating room 
on ___ and underwent coronary artery bypass grafting x 5. 
Please see operative note for full details. He tolerated the 
procedure well and was transferred to the CVICU in stable 
condition for recovery and invasive monitoring. 
 
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1.  Beta blocker was initiated and he was 
diuresed toward his preoperative weight. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery. He was evaluated by the physical 
therapy service for assistance with strength and mobility. By 
the time of discharge on POD 4 he was ambulating freely, the 
wound was healing, and pain was controlled with oral analgesics. 
He was discharged home in good condition with appropriate follow 
up instructions.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY 
RX *aspirin [Aspirin Low Dose] 81 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*1 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth qpm Disp #*30 Tablet 
Refills:*1 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Docuprene] 100 mg 1 capsule(s) by mouth 
twice a day Disp #*60 Tablet Refills:*0 
4.  Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*5 
Tablet Refills:*0 
5.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0 
6.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
Duration: 6 Months 
continue for 6 months after surgery 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*5 
7.  Metoprolol Tartrate 37.5 mg PO TID 
RX *metoprolol tartrate 25 mg 1.5 tablet(s) by mouth three times 
a day Disp #*150 Tablet Refills:*1 
8.  Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride 20 mEq 1 packet(s) by mouth once a day 
Disp #*5 Tablet Refills:*0 
9.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*1 
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Coronary Artery Disease
Acute Kidney Injury
Groin Hematoma
Non-ST Elevation Myocardial Infarction

Secondary Diagnosis:
Anxiety
Hyperlipidemia
Hypertension
Kidney Stones

 
Discharge Condition:
Alert and oriented x3 non-focal 
Ambulating with steady gait
Incisional pain managed with Dilaudid
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema - trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the 
chart.
****call MD if weight goes up more than 3 lbs in 24 hours or 5 
lbs over  5 days****.
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___